US08232403B2
4-Benzyloxymethylcyclohexanone (168 g, 0.77 mol) is dissolved in ethanol (2000 mL), and then triethylorthoformate (350 mL) and p-toluenesulfonic acid (13.3 g) are added. The resulting mixture is stirred and refluxed for 6 hours. After addition of triethylamine (10.5 mL) at room temperature, the mixture is concentrated (500 mL). After addition of sat. NaHCO3 aq., the resulting mixture is extracted with EtOAc. The water layer is extracted with EtOAc and the combined organic layer is washed with brine, dried over magnesium sulfate, and concentrated under reduced pressure. The crude mixture is purified by short pad silica gel column chromatography to afford (4,4-diethoxycyclohexylmethoxymethyl)benzene.

reactant | 4-Benzyloxymethylcyclohexanone | 0.77 mol, 168 g | C(C1=CC=CC=C1)OCC1CCC(CC1)=O | C14H18O2
reactant | triethylorthoformate | 350 mL | C(C)OC(OCC)OCC | C7H16O3
reactant | p-toluenesulfonic acid | 13.3 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | triethylamine | 10.5 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 2000 mL | C(C)O | C2H6O
product | (4,4-diethoxycyclohexylmethoxymethyl)benzene | C(C)OC1(CCC(CC1)COCC1=CC=CC=C1)OCC | C18H28O3
